### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): Odd Hurwitz zeta functions

### PR DESCRIPTION
**Pull request by loefflerd**
This PR adds the analytic continuation and functional equation for the odd part of the Hurwitz zeta function.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 1]
```diff
@@ -0,0 +1,592 @@
...
+/-- If `s` is not in `-ℕ`, then `hurwitzZetaOdd a (1 - s)` is an explicit multiple of
+`sinZeta s`. -/
+lemma hurwitzZetaOdd_one_sub (a : UnitAddCircle) {s : ℂ} (hs : ∀ (n : ℕ), s ≠ -n) :
+    hurwitzZetaOdd a (1 - s) = 2 * (2 * π) ^ (-s) * Gamma s * sin (π * s / 2) * sinZeta a s := by
+  rw [← Gammaℂ, hurwitzZetaOdd, (by ring : 1 - s + 1 = 2 - s), div_eq_mul_inv,
+    inv_Gammaℝ_two_sub hs, completedHurwitzZetaOdd_one_sub, sinZeta, ← div_eq_mul_inv,
+    ← mul_div_assoc, ← mul_div_assoc, mul_comm]
+
+/-- If `s` is not in `-ℕ`, then `hurwitzZetaOdd a (1 - s)` is an explicit multiple of
+`sinZeta s`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:587]: Copy&paste? I think `hurwitzZetaOdd` and `sinZeta` should be swapped here.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 2]
```diff
@@ -0,0 +1,592 @@
...
+    ← exp_conj, conj_ofReal, conj_I, map_mul, map_add, map_div₀, mul_neg, map_pow, map_ofNat,
+    neg_mul, div_neg, neg_div, jacobiTheta₂'_neg_left, jacobiTheta₂_neg_left]
+
+/-- Restatement of `jacobiTheta₂'_add_left'`: the function `jacobiTheta₂''` is 1-periodic in `z`. -/
+lemma jacobiTheta₂''_add_left (z τ : ℂ) : jacobiTheta₂'' (z + 1) τ = jacobiTheta₂'' z τ := by
+  simp only [jacobiTheta₂'', add_mul z 1, one_mul, jacobiTheta₂'_add_left', jacobiTheta₂_add_left']
+  generalize jacobiTheta₂ (z * τ) τ = J
+  generalize jacobiTheta₂' (z * τ) τ = J'
+  -- clear denominator
+  simp_rw [div_add' _ _ _ two_pi_I_ne_zero,  ← mul_div_assoc]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:70]:
```suggestion
  simp_rw [div_add' _ _ _ two_pi_I_ne_zero, ← mul_div_assoc]
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 3]
```diff
@@ -0,0 +1,592 @@
...
+  refine congr_arg (· / (2 * π * I)) ?_
+  -- get all exponential terms to left
+  rw [← mul_assoc _ (cexp _), mul_comm z (cexp _), mul_assoc (cexp _), ← mul_add,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:73]:
```suggestion
  rw [mul_left_comm _ (cexp _),, ← mul_add,
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 4]
```diff
@@ -0,0 +1,592 @@
...
+lemma jacobiTheta₂''_neg_left (z τ : ℂ) : jacobiTheta₂'' (-z) τ = -jacobiTheta₂'' z τ := by
+  simp only [jacobiTheta₂'', jacobiTheta₂'_neg_left, jacobiTheta₂_neg_left,
+    neg_mul, neg_div, ← neg_add, mul_neg, neg_sq]
+
+lemma jacobiTheta₂'_functional_equation' (z τ : ℂ) :
+    jacobiTheta₂' z τ = (-2 * π) / (-I * τ) ^ (3 / 2 : ℂ) * jacobiTheta₂'' z (-1 / τ) := by
+  rcases eq_or_ne τ 0 with rfl | hτ
+  · rw [jacobiTheta₂'_undef _ (by simp), mul_zero, zero_cpow (by norm_num), div_zero, zero_mul]
+  have aux1 : (-2 * π : ℂ) / (2 * π * I) = I := by rw [div_eq_iff two_pi_I_ne_zero, mul_comm I,
+    mul_assoc _ I I, I_mul_I, neg_mul, mul_neg, mul_one]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:86]:
```suggestion
  have aux1 : (-2 * π : ℂ) / (2 * π * I) = I := by
    rw [div_eq_iff two_pi_I_ne_zero, mul_comm I, mul_assoc _ I I, I_mul_I, neg_mul, mul_neg,
      mul_one]
```
I think the proof should start on the same line only if it finishes on that line.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 5]
```diff
@@ -0,0 +1,592 @@
...
+  rw [jacobiTheta₂'_functional_equation, ← mul_one_div _ τ, mul_assoc _ (cexp _), mul_comm (cexp _),
+    ← mul_assoc, (by rw [cpow_one, ← div_div, div_self (neg_ne_zero.mpr I_ne_zero)] :
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:88]:
```suggestion
  rw [jacobiTheta₂'_functional_equation, ← mul_one_div _ τ, mul_right_comm _ (cexp _),
    (by rw [cpow_one, ← div_div, div_self (neg_ne_zero.mpr I_ne_zero)] :
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 6]
```diff
@@ -0,0 +1,592 @@
...
+to `∑ (n : ℕ), 2 * n * sin (2 * π * n * a) * exp (-π * n ^ 2 * x)`. See `hasSum_nat_sinKernel`
+for the defining sum. -/
+@[irreducible] def sinKernel (a : UnitAddCircle) (x : ℝ) : ℝ :=
+  (show Function.Periodic (fun ξ : ℝ ↦ re (jacobiTheta₂' ξ (I * x) / (-2 * π))) 1 by
+    intro ξ; simp_rw [ofReal_add, ofReal_one, jacobiTheta₂'_add_left]).lift a
+
+lemma sinKernel_def (a x : ℝ) : ↑(sinKernel ↑a x) = jacobiTheta₂' a (I * x) / (-2 * π) := by
+  rw [sinKernel, Function.Periodic.lift_coe, re_eq_add_conj, map_div₀, jacobiTheta₂'_conj]
+  simp_rw [map_mul, conj_I, conj_ofReal, map_neg, map_ofNat, neg_mul, neg_neg]
+  ring
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:134]:
```suggestion
  simp_rw [map_mul, conj_I, conj_ofReal, map_neg, map_ofNat, neg_mul, neg_neg, half_add_self]
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 7]
```diff
@@ -0,0 +1,592 @@
...
+lemma oddKernel_def' (a x : ℝ) : ↑(oddKernel ↑a x) = cexp (-π * a ^ 2 * x) *
+    (jacobiTheta₂' (a * I * x) (I * x) / (2 * π * I) + a * jacobiTheta₂ (a * I * x) (I * x)) := by
+  rw [oddKernel_def, jacobiTheta₂'', ← mul_assoc ↑a I x,
+    (by ring : ↑π * I * ↑a ^ 2 * (I * ↑x) = I ^ 2 * ↑π * ↑a ^ 2 * x), I_sq, neg_one_mul]
+
+lemma oddKernel_undef (a : UnitAddCircle) {x : ℝ} (hx : x ≤ 0) : oddKernel a x = 0 := by
+  induction' a using QuotientAddGroup.induction_on' with a'
+  rw [← ofReal_eq_zero, oddKernel_def', jacobiTheta₂_undef, jacobiTheta₂'_undef, zero_div, zero_add,
+    mul_zero, mul_zero] <;>
+  rwa [I_mul_im, ofReal_re]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:122]: Since this occurs a number of times, it may make sense to add a
```lean
lemma Complex.im_I_mul_ofReal (x : ℝ) : (I * x).im = x := ...
```
(and the obvious variants) in, e.g., `Mathlib.Data.Complex.Basic` and then use it in this file.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 8]
```diff
@@ -0,0 +1,592 @@
...
+  induction' a using QuotientAddGroup.induction_on' with a
+  suffices ContinuousOn (fun x ↦ (oddKernel a x : ℂ)) (Ioi 0) from
+    (continuous_re.comp_continuousOn this).congr fun a _ ↦ (ofReal_re _).symm
+  simp_rw [oddKernel_def' a]
+  refine fun x hx ↦ ((Continuous.continuousAt ?_).mul ?_).continuousWithinAt
+  · exact continuous_exp.comp (continuous_const.mul continuous_ofReal)
+  · have hx' : 0 < im (I * x) := by rwa [I_mul_im, ofReal_re]
+    have hf : Continuous fun u : ℝ ↦ (a * I * u, I * u) := by
+      rw [continuous_prod_mk]
+      constructor <;> exact continuous_const.mul continuous_ofReal
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:169]:
```suggestion
  · fun_prop
  · have hx' : 0 < im (I * x) := by rwa [I_mul_im, ofReal_re]
    have hf : Continuous fun u : ℝ ↦ (a * I * u, I * u) := by fun_prop
```
`fun_prop` is actually faster here!

It might even be possible to mark the continuity statements for Jacobi theta functions so that `fun_prop` can use them; then most of the proff could just be `fun_prop`.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 9]
```diff
@@ -0,0 +1,592 @@
...
+
+lemma continuousOn_sinKernel (a : UnitAddCircle) : ContinuousOn (sinKernel a) (Ioi 0) := by
+  induction' a using QuotientAddGroup.induction_on' with a
+  suffices ContinuousOn (fun x ↦ (sinKernel a x : ℂ)) (Ioi 0) from
+    (continuous_re.comp_continuousOn this).congr fun a _ ↦ (ofReal_re _).symm
+  simp_rw [sinKernel_def]
+  apply (ContinuousAt.continuousOn (fun x hx ↦ ?_)).div_const
+  have h := continuousAt_jacobiTheta₂' a (by rwa [I_mul_im, ofReal_re] : 0 < im (I * x))
+  exact h.comp (f := fun u : ℝ ↦ ((a : ℂ), I * u)) (continuous_prod_mk.mpr ⟨continuous_const,
+    continuous_const.mul continuous_ofReal⟩).continuousAt
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:184]:
```suggestion
  fun_prop
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 10]
```diff
@@ -0,0 +1,592 @@
...
+    simp only [Ne, cpow_eq_zero_iff, ofReal_eq_zero, hx.ne', false_and, not_false_eq_true]
+  have h4 : arg x ≠ π := by rw [arg_ofReal_of_nonneg hx.le]; exact pi_ne_zero.symm
+  rw [← ofReal_inj, oddKernel_def, ofReal_mul, sinKernel_def, jacobiTheta₂'_functional_equation',
+    h1, h2]
+  generalize jacobiTheta₂'' a (I * ↑x) = J
+  rw [one_div (x : ℂ), inv_cpow _ _ h4, div_inv_eq_mul, one_div, ofReal_inv, ofReal_cpow hx.le,
+    ofReal_div, ofReal_ofNat, ofReal_ofNat, ← mul_div_assoc _ _ (-2 * π : ℂ),
+    eq_div_iff <| mul_ne_zero (neg_ne_zero.mpr two_ne_zero) (ofReal_ne_zero.mpr pi_ne_zero),
+    ← div_eq_inv_mul, eq_div_iff h3, mul_comm J _, mul_assoc (-2 * π : ℂ) ((x : ℂ) ^ _),
+    mul_comm ((x : ℂ) ^ _) J, ← mul_assoc]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:206]:
```suggestion
    ← div_eq_inv_mul, eq_div_iff h3, mul_comm J _, mul_right_comm]
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 11]
```diff
@@ -0,0 +1,592 @@
...
+lemma hasSum_int_oddKernel (a : ℝ) {x : ℝ} (hx : 0 < x) :
+    HasSum (fun n : ℤ ↦ (n + a) * rexp (-π * (n + a) ^ 2 * x)) (oddKernel ↑a x) := by
+  rw [← hasSum_ofReal, oddKernel_def' a x]
+  have h1 := hasSum_jacobiTheta₂_term (a * I * x) (by rwa [I_mul_im, ofReal_re] : 0 < im (I * x))
+  have h2 := hasSum_jacobiTheta₂'_term (a * I * x) (by rwa [I_mul_im, ofReal_re] : 0 < im (I * x))
+  refine (((h2.div_const (2 * π * I)).add (h1.mul_left ↑a)).mul_left
+    (cexp (-π * a ^ 2 * x))).congr_fun (fun n ↦ ?_)
+  rw [jacobiTheta₂'_term, mul_assoc (2 * π * I), mul_div_cancel_left₀ _ two_pi_I_ne_zero, ← add_mul,
+    ← mul_assoc, mul_comm _ (n + a : ℂ), mul_assoc (n + a : ℂ), jacobiTheta₂_term,
+    ← Complex.exp_add]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:225]:
```suggestion
    mul_left_comm, jacobiTheta₂_term, ← Complex.exp_add]
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 12]
```diff
@@ -0,0 +1,592 @@
...
+  push_cast
+  congr 2
+  simp only [← mul_assoc, ← add_mul]
+  congr 1
+  simp_rw [mul_assoc _ I, mul_comm I _, ← mul_assoc _ _ I, mul_assoc _ I, mul_comm I _,
+    ← mul_assoc _ _ I, add_mul, mul_assoc _ _ I, I_mul_I, mul_neg, mul_one,
+    mul_comm (2 : ℂ) π, mul_assoc, ← neg_mul, ← mul_add]
+  rw [← add_assoc, add_comm, mul_comm (n : ℂ) a, ← mul_assoc, add_sq]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:233]: Similar simplifications should be possible here.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 13]
```diff
@@ -0,0 +1,592 @@
...
+
+lemma hasSum_int_sinKernel (a : ℝ) {t : ℝ} (ht : 0 < t) : HasSum
+    (fun n : ℤ ↦ -I * n * cexp (2 * π * I * a * n) * rexp (-π * n ^ 2 * t)) ↑(sinKernel a t) := by
+  have h : -2 * (π : ℂ) ≠ (0 : ℂ) := by
+    simp? [pi_ne_zero] says simp only [neg_mul, ne_eq, neg_eq_zero, mul_eq_zero,
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:238]: Did you use the `says` combinator here on purpose? Just asking, because it is the only place where you do that.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 14]
```diff
@@ -0,0 +1,592 @@
...
+/-- The function `oddKernel a` has exponential decay at `+∞`, for any `a`. -/
+lemma isBigO_atTop_oddKernel (a : UnitAddCircle) :
+    ∃ p, 0 < p ∧ IsBigO atTop (oddKernel a) (fun x ↦ Real.exp (-p * x)) := by
+  obtain ⟨b, _, rfl⟩ := a.eq_coe_Ico
+  let ⟨p, hp, hp'⟩ := HurwitzKernelBounds.isBigO_atTop_F_int_one b
+  refine ⟨p, hp, (Eventually.isBigO ?_).trans hp'⟩
+  filter_upwards [eventually_gt_atTop 0] with t ht
+  simpa only [← (hasSum_int_oddKernel b ht).tsum_eq, Real.norm_eq_abs, HurwitzKernelBounds.F_int,
+    HurwitzKernelBounds.f_int, pow_one, norm_mul, abs_of_nonneg (exp_pos _).le] using
+    (norm_tsum_le_tsum_norm (hasSum_int_oddKernel b ht).summable.norm)
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:283]:
```suggestion
    norm_tsum_le_tsum_norm (hasSum_int_oddKernel b ht).summable.norm
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 15]
```diff
@@ -0,0 +1,592 @@
...
+
+section asymp
+/-!
+## Asymptotics of the kernels as `t → ∞`
+-/
+
+/-- The function `oddKernel a` has exponential decay at `+∞`, for any `a`. -/
+lemma isBigO_atTop_oddKernel (a : UnitAddCircle) :
+    ∃ p, 0 < p ∧ IsBigO atTop (oddKernel a) (fun x ↦ Real.exp (-p * x)) := by
+  obtain ⟨b, _, rfl⟩ := a.eq_coe_Ico
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:272]: `induction' a using QuotientAddGroup.induction_on with b` (like elsewhere) would also work (and is slightly faster). Is there some reason to not be consistent?

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 16]
```diff
@@ -0,0 +1,587 @@
...
+      mul_le_mul_iff_of_pos_left two_pos, HurwitzKernelBounds.f_nat, pow_one, add_zero,
+      norm_of_nonneg (exp_pos _).le, Real.norm_eq_abs, Nat.abs_cast, ← mul_assoc,
+      mul_le_mul_iff_of_pos_right (exp_pos _)]
+    exact mul_le_of_le_one_right (Nat.cast_nonneg _) (abs_sin_le_one _)
+
+end asymp
+
+section FEPair
+/-!
+## Construction of a FE-pair
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:301]: "an FE-pair"? Does "a"/"an" depend on the pronunciation or on the spelling?

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 17]
```diff
@@ -0,0 +1,587 @@
...
+    measurableSet_Ioi
+  hg_int := (continuous_ofReal.comp_continuousOn (continuousOn_sinKernel a)).locallyIntegrableOn
+    measurableSet_Ioi
+  k := 3 / 2
+  hk := by norm_num
+  hε := one_ne_zero
+  f₀ := 0
+  hf₀ := by rfl
+  g₀ := 0
+  hg₀ := by rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:319]:
```suggestion
  hf₀ := rfl
  g₀ := 0
  hg₀ := rfl
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean (hunk 7 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:123]: Good point, this already occurs 13 times in the `hurwitzZeta` code, I will add it

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 18]
```diff
@@ -0,0 +1,587 @@
...
+    cexp (2 * π * I * a * n) / (↑|n| : ℂ) ^ s / 2) (completedSinZeta a s) := by
+  let c (n : ℤ) : ℂ := -I * cexp (2 * π * I * a * n) / 2
+  have hc (n : ℤ) : ‖c n‖ = 1 / 2 := by
+    simp_rw [c, (by { push_cast; ring } : 2 * π * I * a * n = ↑(2 * π * a * n) * I), norm_div,
+      RCLike.norm_ofNat, norm_mul, norm_neg, norm_I, one_mul, norm_exp_ofReal_mul_I]
+  have hF t (ht : 0 < t) :
+      HasSum (fun n ↦ c n * n * rexp (-π * n ^ 2 * t)) (sinKernel a t / 2) := by
+    refine ((hasSum_int_sinKernel a ht).div_const 2).congr_fun fun n ↦ ?_
+    rw [div_mul_eq_mul_div, div_mul_eq_mul_div, mul_assoc (-I), mul_assoc (-I),
+      mul_assoc (-I), mul_assoc (-I), mul_comm (cexp _)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:409]:
```suggestion
    rw [div_mul_eq_mul_div, div_mul_eq_mul_div, mul_right_comm (-I)]
```

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean (hunk 13 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:233]: I meant to take it out after doing a speed-test.

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 19]
```diff
@@ -0,0 +1,587 @@
...
+  have := mellin_div_const .. ▸ hasSum_mellin_pi_mul_sq' (zero_lt_one.trans hs) hF h_sum
+  refine this.congr_fun fun n ↦ ?_
+  rw [← Int.cast_abs, ofReal_intCast]
+  have : (Int.sign n : ℂ) = SignType.sign (n : ℝ) := by
+    rw [← SignType.map_cast (f := Int.castRingHom ℂ), Int.coe_castRingHom, Int.cast_inj,
+      ← eq_intCast (Int.castRingHom ℝ) n, StrictMono.sign_comp, Int.sign_eq_sign n]
+    simp_rw [strictMono_iff_map_pos, Int.coe_castRingHom, Int.cast_pos, imp_self, forall_const]
+  rw [this, ← mul_div_assoc, div_mul_eq_mul_div, div_right_comm, mul_assoc (Gammaℝ _),
+    mul_assoc (Gammaℝ _), mul_assoc (Gammaℝ _), mul_assoc (-I), mul_assoc (-I),
+    mul_comm (cexp _)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:424]:
```suggestion
  rw [this]
  ring
```
(actually slightly faster)

File: Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean [hunk 20]
```diff
@@ -0,0 +1,587 @@
...
+  have h_sum : Summable fun i ↦ ‖c i‖ / |↑i| ^ s.re := by
+    simp_rw [hc, div_right_comm]
+    apply Summable.div_const
+    apply Summable.of_nat_of_neg <;>
+    · simp only [Int.cast_neg, abs_neg, Int.cast_natCast, Nat.abs_cast]
+      rwa [summable_one_div_nat_rpow]
+  have := mellin_div_const .. ▸ hasSum_mellin_pi_mul_sq' (zero_lt_one.trans hs) hF h_sum
+  refine this.congr_fun fun n ↦ ?_
+  rw [← Int.cast_abs, ofReal_intCast]
+  have : (Int.sign n : ℂ) = SignType.sign (n : ℝ) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:418]: This should be much simpler. It looks like API for `sign` is missing...

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/HurwitzZetaOdd.lean:418]:
```lean
  have : (Int.sign n : ℂ) = SignType.sign (n : ℝ) := by
    simp only [Int.sign_eq_sign, sign_apply]
    norm_cast
    split_ifs
    · simp only [SignType.coe_one, Int.cast_one]
    · simp only [SignType.coe_neg_one, Int.cast_neg, Int.reduceNeg, Int.cast_one]
    · simp only [SignType.coe_zero, Int.cast_zero]
```
looks more principled (and is faster, though still slower than I think it should be).

At a cost of 600 hb, one can shorten the end game to
```lean
    split_ifs <;> simp
```

File: Mathlib/Data/Complex/Basic.lean [hunk 21]
```diff
@@ -332,6 +332,14 @@ theorem I_mul_im (z : ℂ) : (I * z).im = z.re := by simp
...
 #align complex.I_mul_im Complex.I_mul_im
 
+lemma ofReal_mul_I_im (x : ℝ) : (x * I).im = x := by simp
+
+lemma I_mul_ofReal_im (x : ℝ) : (I * x).im = x := by simp
+
+lemma ofReal_mul_I_re (x : ℝ) : (x * I).re = 0 := by simp
+
+lemma I_mul_ofReal_re (x : ℝ) : (I * x).re = 0 := by simp
+
```
[the remark this answers is not in the document]
Comment (MichaelStollBayreuth) [reply Mathlib/Data/Complex/Basic.lean:342]: `I_mul_ofReal_im` allows some simplification throughout `HurwitzZetaOdd`, so I think adding the lemmas makes sense. (But then I suggested them in the first place...)

[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/Data/Complex/Basic.lean:342]: On reflection I agree with Eric's view here. When I added in these lemmas, I realised they don't actually shorten the code at the point of use as much as I had expected.

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

**Comment by MichaelStollBayreuth** [comment]
maintainer merge

**Comment by riccardobrasca** [comment]
Thank!

bors merge
